US04455441
A solution of 8-bromooctan-1-ol (Hendry et al., J. Chem. Ecol., 1, 317, 1975), (2.50 g, 11.9 mmol) in methylene chloride (about 3 ml) is slowly added to a stirred solution of diethylaminosulfur trifluoride (DAST) (Middleton, J. Org. Chem, 40, 574, 1975) (1.5 mL, 11.9 mmol) in methylene chloride (10 mL), cooled to -78° C. After the addition is completed, the reaction mixture is warmed to 25° C. and saturated aqueous sodium bicarbonate (about 5 mL) is added, followed by dilution with ether (about 200 mL). The organic layer is then separated, and washed with water (20 mL), saturated sodium bicarbonate (20 mL) and then dried (MgSO4). The volatiles are removed in vacuo and the crude product is purified by flash chromatography using hexane/ethyl acetate, (95.5, v/v) to afford 8-bromo-fluoro-octane (1.54 g, 61%) as a clear colorless liquid: Rf=0.70, hexane/ethyl acetate (7:3, v/v); IR (film) ν2850-3000 (alkane CH) and 1H-NMR (CDCl3) δ1.15-2.0 (m, 12H), 3.39 (t, J=6 Hz, 2H), 4.42 (dt, J=48 Hz, 6 Hz, 2H).

reactant | 8-bromooctan-1-ol | 11.9 mmol, 2.50 g | BrCCCCCCCCO | C8H17BrO
reactant | diethylaminosulfur trifluoride | 11.9 mmol, 1.5 mL | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | sodium bicarbonate | about 5 mL | C([O-])(O)=O.[Na+]
reactant | ether | about 200 mL | CCOCC | C4H10O
solvent | methylene chloride | about 3 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 8-bromo-fluoro-octane | 1.54 g, 61% | BrCCCCCCCCF | C8H16BrF
